US07642273B2
To a suspension of 3-(pyridin-3-yl)benzoic acid (0.8 g, 4 mmol) and N,N-dimethylformide (2 drops) in anhydrous methylene chloride (30 mL) was added oxalyl chloride (0.42 mL, 4.8 mmol) dropwise at 0° C. under argon. The mixture was stirred at RT for 3.5 hr and then concentrated. The yellow solid obtained was dissolved in anhydrous methanol (20 mL) at 0° C. After stirring at RT for 30 min, the mixture was concentrated. The residue was dissolved in ethyl acetate, washed with saturated aqueous sodium bicarbonate solution, brine, and dried over anhydrous sodium sulfate. Concentration gave 0.84 g (99% yield) of methyl 3-(pyridin-3-yl)benzoate as a yellow solid. (M+H)+=214.16.

reactant | 3-(pyridin-3-yl)benzoic acid | 4 mmol, 0.8 g | N1=CC(=CC=C1)C=1C=C(C(=O)O)C=CC1 | C12H9NO2
reactant | oxalyl chloride | 4.8 mmol, 0.42 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | methylene chloride | 30 mL | C(Cl)Cl | CH2Cl2
solvent | methanol | 20 mL | CO | CH4O
product | methyl 3-(pyridin-3-yl)benzoate | 0.84 g, 99% yield | N1=CC(=CC=C1)C=1C=C(C(=O)OC)C=CC1 | C13H11NO2
